US07655666B2
2-Amino-4-trifluoromethyl-5-(1-trimethylsilanylmethyl-1H-[1,2,3]triazol-4-yl)-benzoic acid methyl ester (420 mg, 1.12 mmol) was dissolved in THF (10 mL). After addition of a solution of TBAF in THF (1M, 2.25 mL, 2 equiv), the mixture was stirred at r.t. for 30 min. The solvent was removed in vacuo and the residue was taken in AcOEt. The organic phase was washed with water, dried (Na2SO4) and concentrated in vacuo to give a brown oil. The crude product was purified by flash chromatography (EtOAc/hexanes (1:9) to EtOAc/hexanes (6:4)) to yield 2-amino-5-(1-methyl-1H-[1,2,3]triazol-4-yl)-4-trifluoromethyl-benzoic acid methyl ester (240 mg, 71%) as a yellow solid. (ESI-MS: m/z 301.3 [M+H]+, rt 4.62 min).

reactant | 2-Amino-4-trifluoromethyl-5-(1-trimethylsilanylmethyl-1H-[1,2,3]triazol-4-yl)-benzoic acid methyl ester | 1.12 mmol, 420 mg | COC(C1=C(C=C(C(=C1)C=1N=NN(C1)C[Si](C)(C)C)C(F)(F)F)N)=O | C15H19F3N4O2Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1M, 2.25 mL, 2 equiv | C1CCOC1 | C4H8O
product | 2-amino-5-(1-methyl-1H-[1,2,3]triazol-4-yl)-4-trifluoromethyl-benzoic acid methyl ester | 240 mg, 71% | COC(C1=C(C=C(C(=C1)C=1N=NN(C1)C)C(F)(F)F)N)=O | C12H11F3N4O2
